US07745490B2
N,N-1,3-Diisopropyl carbodiimide (0.40 g, 3.36 mmol) was added to a solution of 1-benzyloxy-2-methoxy-5-aminobenzene (0.771 g, 3.36 mmol), 4-benzyloxy-3-methoxy benzoic acid (0.87 g, 3.36 mmol) and 1-hydroxybenzotriazole (0.454 g, 3.36 mmol) in N,N-dimethylformamide (15 ml) and stirred for 12 hrs. The product was precipitated by diluting with a mixture of ethyl acetate/hexane (1:1) (120 ml). Filtration of the reaction mixture provided 1.12 g of 4-Benzyloxy-3-methoxy-N-(3-benzyloxy-4-methoxyphenyl)benzamide. Yield 69%.

reactant | 1-benzyloxy-2-methoxy-5-aminobenzene | 3.36 mmol, 0.771 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)N)OC | C14H15NO2
reactant | 4-benzyloxy-3-methoxy benzoic acid | 3.36 mmol, 0.87 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)OC | C15H14O4
reactant | 1-hydroxybenzotriazole | 3.36 mmol, 0.454 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-Benzyloxy-3-methoxy-N-(3-benzyloxy-4-methoxyphenyl)benzamide | 1.12 g, Yield 69% | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NC2=CC(=C(C=C2)OC)OCC2=CC=CC=C2)C=C1)OC | C29H27NO5
